US04945098
1-Octadecylaminocarbonyloxy-3-[6-(1-pyridinio)hexanoyloxy]-2-methylenepropane bromide
1-Octadecylaminocarbonyloxy-3-(6-bromohexanoyloxy)-2-methylenepropane (from Preparation 9) (0.84 g) was dissolved in dry pyridine (20 ml) and heated to 60° C. for 22 hours. Excess pyridine was removed in vacuo.

reactant | 1-Octadecylaminocarbonyloxy-3-(6-bromohexanoyloxy)-2-methylenepropane | 0.84 g | C(CCCCCCCCCCCCCCCCC)NC(=O)OCC(COC(CCCCCBr)=O)=C | C29H54BrNO4
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1-Octadecylaminocarbonyloxy-3-[6-(1-pyridinio)hexanoyloxy]-2-methylenepropane bromide | [Br-].C(CCCCCCCCCCCCCCCCC)NC(=O)OCC(COC(CCCCC[N+]1=CC=CC=C1)=O)=C | InChI=1S/C34H58N2O4.BrH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-21-26-35-34(38)40-31-32(2)30-39-33(37)25-20-18-22-27-36-28-23-19-24-29-36;/h19,23-24,28-29H,2-18,20-22,25-27,30-31H2,1H3;1H
